US08212045B2
3-(Methoxymethyl)-1,4-dioxaspiro[4.5]decane-2-carbaldehyde oxime (33.2 g, 145 mmol) was dissolved in DMF (600 mL) and cooled in an ice bath. 1-Chloropyrrolidine-2,5-dione (19.3 g, 145 mmol) was added and the reaction allowed to slowly warm to ambient temperature overnight. Most of the DMF was removed under reduced pressure and the remaining material was partitioned between water and EtOAc. The organic layer was washed with water and brine, dried over sodium sulfate, filtered and concentrated to afford (2R,3S)-N-hydroxy-3-(methoxymethyl)-1,4-dioxaspiro[4.5]decane-2-carbimidoyl chloride (35.6 g, 135 mmol, 93.2% yield) which was taken forward without further purification.

reactant | 3-(Methoxymethyl)-1,4-dioxaspiro[4.5]decane-2-carbaldehyde oxime | 145 mmol, 33.2 g | COCC1C(OC2(O1)CCCCC2)C=NO | C11H19NO4
reactant | 1-Chloropyrrolidine-2,5-dione | 145 mmol, 19.3 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | DMF | 600 mL | CN(C)C=O | C3H7NO
product | (2R,3S)-N-hydroxy-3-(methoxymethyl)-1,4-dioxaspiro[4.5]decane-2-carbimidoyl chloride | 135 mmol, 35.6 g, 93.2% yield | ON=C([C@@H]1OC2(O[C@H]1COC)CCCCC2)Cl | C11H18ClNO4
